US04374847
Aqueous sodium hydroxide (1 N, 25 ml) is added to a solution of 2.0 g of L-prolinol (U.S. patent 3,935,280) in 50 ml of CH2Cl2. After cooling the reaction mixture to 0° C., 4.0 g of 4-phenylbutyric acid chloride is added and the reaction is stirred vigorously for 4 hours at 0° C., followed by 1 hour at room temperature. The reaction is diluted with an equal volume of CH2Cl2 and the layers separated. The organic phase is washed with 30 ml of water and dried over Na2SO4 /K2CO3. The solvent is evaporated to yield 4.4 g of N-(4-phenylbutanoyl)-L-prolinol having IR peaks at 3280 and 1605 cm-1, [α]D25 =-40.3° (methanol). 20.5 g of N-methyl-N,N'-dicyclohexylcarbodiimidium iodide (Angew, Chem., Int. Ed. 11, 229 (1972) is added to a solution of 5.3 of R-(-)-3-benzyloxy-2-methylpropanol (Helv. Chim. Acta 60, 925 (1977) in 200 ml dry tetrahydrofuran under nitrogen and the reaction is stirred at room temperature for 14 hours. The solvent is evaporated and 20 ml of ether and 5 ml of pentane are added. The resulting yellow solid is collected and the mother liquors are chromatographed on 200 g of silica gel with pentane to yield 6.68 g of the S(+)-3-benzyloxy-2-methylpropyl iodide having Rf=0.60 (9:1 of pentane:ether/Si°2), [α ]D25 =+11.1° (MeOH). N-(4-phenylbutanoyl) L-prolinol is dissolved in 2 ml of dry tetrahydrofuran and added dropwise to a solution of lithium diisopropylamide (15.6 m moles) in 50 ml of tetrahydrofuran at 0° C. under nitrogen. After 30 minutes at 0° C., 2.03 g of S-(+)-3-benzyloxy-2-methylpropyl iodide is added dropwise in 2 ml of dry tetrahydrofuran. The reaction is stirred at 0° C. for 5 hours, at -15° C. for 15 hours and quenched at 0° C. with excess saturated ammonium chloride solution. The reaction mixture is diluted with 30 ml of ether. The layers are separated and the organic phase is washed with 16 ml of 1 N HCl, 15 ml of brine, 15 ml of saturated sodium bicarbonate and dried over sodium sulfate. Evaporation of solvent yields 3.6 g of an oil which is filtered through 60 g of silica gel with ethyl acetate to yield 2.3 g of N-(R,R-5-benzyloxy-4-methyl-2-phenethylpentanoyl) L-prolinol having Rf 0.51 (EtoAc/SiO2).

reactant | sodium hydroxide | 1 N, 25 ml | [OH-].[Na+]
reactant | L-prolinol | 2.0 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | 4-phenylbutyric acid chloride | 4.0 g | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-phenylbutanoyl)-L-prolinol | 4.4 g | C1(=CC=CC=C1)CCCC(=O)N1[C@H](CO)CCC1 | C15H21NO2
